US06617325B1
b. methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate
15 g (0.234 mol) of n-butyl lithium as a 2.5 molar solution in hexane are added dropwise to a solution of 32.8 ml (0.234 mol) of diisopropylamine in 200 ml of anhydrous tetrahydrofuran at −30° C. and stirred for 10 minutes at −10° C. 38.4 g (0.234 mol) of methyl 2-phenylpropionate are added dropwise at −76° C. and stirred for 30 minutes at this temperature. Then 26.3 ml (0.257 mol) of 1,3-dibromopropane are added, when the addition has ended the cooling bath is removed and the mixture is stirred for 14 hours at ambient temperature. The reaction solution is poured onto 1.2 l of water and extracted with diethylether. The organic phases are extracted with water, dried over sodium sulphate and the solvent is removed. The residue is distilled under high vacuum.

reactant | n-butyl lithium | 0.234 mol, 15 g | C(CCC)[Li]
reactant | diisopropylamine | 0.234 mol, 32.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-phenylpropionate | 0.234 mol, 38.4 g | C1(=CC=CC=C1)C(C(=O)OC)C | C10H12O2
reactant | 1,3-dibromopropane | 0.257 mol, 26.3 ml | BrCCCBr | C3H6Br2
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate | BrCCCC(CC(=O)OC)(C1=CC=CC=C1)C | C14H19BrO2
